US08937060B2
2-(1-Benzyl-1,2,3,6-tetrahydro-pyridin-4-ylmethoxy)-3-bromo-pyridine (D58)
To a solution of (1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-methanol (0.675 g, 3.019 mmol) [C.A.S. 158984-76-0] in dry THF (40 ml) cooled at 0° C., was added NaH (0.138 g, 3.622 mmol; 60% mineral oil). The resulting reaction mixture was stirred at 0° C. for 30 min. Then, a solution of 2-chloro-3-bromopyridine (0.58 g, 3.019 mmol) in dry THF (10 ml) was added and the mixture was heated in a sealed tube at 85° C. for 2 h. After cooling, additional (1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-methanol (0.675 g, 3.019 mmol), NaH (0.138 g, 3.622 mmol; 60% mineral oil) were added to the reaction mixture, which was then heated at 85° C. overnight. Then, after cooling, the mixture was diluted with water and extracted with EtOAc. The organic phase was separated, dried (Na2SO4) and concentrated in vacuo. The residue was purified by column chromatography (silica gel; DCM/7M solution of NH3 in MeOH up to 2% as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate D58 (0.55 g, 50%).

reactant | (1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-methanol | 3.019 mmol, 0.675 g | C(C1=CC=CC=C1)N1CCC(=CC1)CO | C13H17NO
reactant | NaH | 3.622 mmol, 0.138 g | [H-].[Na+]
reactant | 2-chloro-3-bromopyridine | 3.019 mmol, 0.58 g | ClC1=NC=CC=C1Br | C5H3BrClN
reactant | (1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-methanol | 3.019 mmol, 0.675 g | C(C1=CC=CC=C1)N1CCC(=CC1)CO | C13H17NO
reactant | NaH | 3.622 mmol, 0.138 g | [H-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(1-Benzyl-1,2,3,6-tetrahydro-pyridin-4-ylmethoxy)-3-bromo-pyridine | C(C1=CC=CC=C1)N1CCC(=CC1)COC1=NC=CC=C1Br | C18H19BrN2O
